US09238640B2
Preparation of 2-(2,6-Dimethylpyridin-4-yl)-5-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4(3H)-one
To a solution of 2-pyrrolidin-1-yl-ethanol (1.15 g, 10 mmol) in dimethyl sulfoxide (4 mL), sodium hydride (60% suspension in mineral oil, 0.20 g, 5.0 mmol) was added in portions and the reaction mixture was stirred at room temperature for 20 minutes. To this reaction mixture was added 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one (0.30 g, 1.0 mmol) and the reaction mixture was stirred at 75° C. for 16 hours. The reaction mixture was loaded onto a column and purified by column chromatography (silica gel 230-400 mesh; eluting with 5% 7.0 M ammonia in methanol solution in dichloromethane), to obtain the title compound as a white solid. Yield: 0.163 g (41.3%). MP 227-229° C. MS (ES) m/z: 395.15 (M++1). 1H NMR (400 MHz, CDCl3): δ 7.78 (s, 2H), 6.87 (d, J=2.4 Hz, 1H), 6.58 (d, J=2.4 Hz, 1H), 4.25 (t, J=6.0 Hz, 2H), 3.95 (s, 3H), 2.97 (t, J=6.0 Hz, 2H), 2.66 (s, 6H), 2.63 (m, 4H), 1.83 (m, 4H).

reactant | 2-pyrrolidin-1-yl-ethanol | 10 mmol, 1.15 g | N1(CCCC1)CCO | C6H13NO
reactant | sodium hydride | 5.0 mmol, 0.20 g | [H-].[Na+]
reactant | 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-methoxy-3H-quinazolin-4-one | 1.0 mmol, 0.30 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)F)C | C16H14FN3O2
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
product | 2-(2,6-Dimethylpyridin-4-yl)-5-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4(3H)-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OCCN1CCCC1)C | C22H26N4O3
